US05574055
A solution of 0.9 g of (RS)-3-[5-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one and 0.4 g of palladium-on-charcoal (10%) in 150 ml of methanol was hydrogenated at room temperature and normal pressure. After filtering off the catalyst the filtrate was concentrated and the residue was recrystallized from diethyl ether. There was obtained 0.35 g of (RS)-3-[5-(1,4-dioxa-spiro[4,5]decan-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one. M.p.: 117°-121°.

reactant | (RS)-3-[5-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one | 0.9 g | O1CCOC12CC=C(CC2)C=2C=CC(=NC2)N2C(OC(C2)COC)=O | C18H22N2O5
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.4 g | [Pd] | Pd
product | (RS)-3-[5-(1,4-dioxa-spiro[4,5]decan-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one | 0.35 g | O1CCOC12CCC(CC2)C=2C=CC(=NC2)N2C(OC(C2)COC)=O | C18H24N2O5
